US07741321B2
A mixture of 1-(4-hydroxy-3,5-diiodo-phenyl)-cyclopropanecarboxylic acid methyl ester (3.2 g, 7.2 mmol), 3-chloro-2-methyl-propene (1.0 g, 11 mmol), K2CO3 (1.2 g, 8.6 mmol), NaI (0.1 g, 0.7 mmol) in acetone (20 mL) was stirred at 20° C. overnight. The solid was filtered off and the filtrate was concentrated under vacuum to give 1-[3,5-diiodo-4-(2-methyl-allyloxy)-phenyl]-cyclopropane-carboxylic acid methyl ester (3.5 g, 97%). 1H NMR (300 MHz, CDCl3) δ 7.75 (s, 2H), 5.26 (s, 1H), 5.06 (s, 1H), 4.38 (s, 2H), 3.65 (s, 3H), 1.98 (s, 3H), 1.62-1.58 (m, 2H), 1.18-1.15 (m, 2H).

reactant | 1-(4-hydroxy-3,5-diiodo-phenyl)-cyclopropanecarboxylic acid methyl ester | 7.2 mmol, 3.2 g | COC(=O)C1(CC1)C1=CC(=C(C(=C1)I)O)I | C11H10I2O3
reactant | 3-chloro-2-methyl-propene | 11 mmol, 1.0 g | ClCC(=C)C | C4H7Cl
reactant | K2CO3 | 8.6 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
catalyst | NaI | 0.7 mmol, 0.1 g | [Na+].[I-]
product | 1-[3,5-diiodo-4-(2-methyl-allyloxy)-phenyl]-cyclopropane-carboxylic acid methyl ester | 3.5 g, 97% | COC(=O)C1(CC1)C1=CC(=C(C(=C1)I)OCC(=C)C)I | C15H16I2O3
